US06455550B1
Preparation of 1-[2-[[(1,1-Dimethylethoxy)carbonyl]amino]ethyl]cyclopentane Carboxylic Acid
To a solution of the 1-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethyl]cyclopentane carboxylic acid methyl ester (10.6 g, 39.0 mmol) in THF/MeOH (3:1, 40 mL) was added a solution of LiOH (4.20 g, 98.0 mmol) in water (10 mL). The mixture was stirred for 2.5 h at 50° C. and then cooled to room temperature. The reaction mixture was poured into a round bottom flask and concentrated in vacuo. The mixture was diluted with H2O (60 mL) and acidified with 1M HCl. The aqueous phase was extracted with ethyl acetate (3×200 mL) and the combined organic layer was dried over MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography, using hexane-ethyl acetate (3:1), afforded 5.80 g (58%) as a white powder. HR MS (C13H23NO4): Calcd mass, 258.1705. Obs mass, 258.1700 [(M+H).

reactant | 1-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethyl]cyclopentane carboxylic acid methyl ester | 39.0 mmol, 10.6 g | COC(=O)C1(CCCC1)CCNC(=O)OC(C)(C)C | C14H25NO4
reactant | LiOH | 98.0 mmol, 4.20 g | [Li+].[OH-]
solvent | THF MeOH | 40 mL | C1CCOC1.CO
solvent | water | 10 mL | O | H2O
product | 1-[2-[[(1,1-Dimethylethoxy)carbonyl]amino]ethyl]cyclopentane Carboxylic Acid | CC(C)(OC(=O)NCCC1(CCCC1)C(=O)O)C | C13H23NO4
